US07129239B2
Preparation of Intermediate 1-Benzhydryl-3-ethylaminoazetidine-3-carboxylic Acid Amide (I-(13A-9)e)
A vigorously stirred solution of 1-benzhydryl-3-ethylaminoazetidine-3-carbonitrile (I-(13A-9)d; 11.7 g, 40 mmol) in methylene chloride (150 ml) cooled in an ice bath was treated with H2SO4 (22 ml, 0.4 mol), dropwise. After the reaction mixture was allowed to warm to room temperature and stir overnight, it was cooled in an ice bath and then carefully quenched with concentrated NH4OH to pH 11. The off-white solids that formed during the quench were collected by vacuum filtration. The aqueous mixture was then extracted with methylene chloride, the combined organic layers were washed with brine, dried (Na2SO4) and then concentrated, in vacuo, to afford additional solids. The combined solids were stirred for 1 hour in ethyl acetate (150 mL) and then collected by vacuum filtration to give I-(13A-9)e (9.2 g, 74%) as a solid: +ES MS (M+1) 310.2; 1H NMR (400 MHz, CD3OD) δ 7.41 (d, J=7.1 Hz, 4H), 7.25 (t, J=7.5 Hz, 4H), 7.16 (t, J=7.5 Hz, 2H), 4.49 (s, 1H), 3.44 (d, J=8.3 Hz, 2H), 3.11 (d, J=8.3 Hz, 2H), 2.47 (q, J=7.1 Hz, 2H), 1.10 (t, J=7.3 Hz, 3H).

reactant | 1-benzhydryl-3-ethylaminoazetidine-3-carbonitrile | 40 mmol, 11.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C#N)NCC | C19H21N3
reactant | H2SO4 | 0.4 mol, 22 ml | OS(=O)(=O)O | H2O4S
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 1-Benzhydryl-3-ethylaminoazetidine-3-carboxylic Acid Amide | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C(=O)N)NCC | C19H23N3O
